US05476671
Synthesis of N-(2,3-dihydroxypropyl)-N-hexadecyl-2-hydroxyhexadecanamide (Structure 6)
N-(2,3-dihydroxypropyl)-N-hexadecylamine (1.0 g, 0.0032 mole) and potassium hydroxide (0.01 g, 0.18 mmole) were heated to 85° C. under vacuum and methyl 2-hydroxyhexadecanoate (0.907 g, 0.0032 mole) was heated and added dropwise to the reaction. The reaction was heated under vacuum for 6 hours. A waxy off-white solid was obtained (crude yield=1.79 g). The waxy solid was recrystalized from hot hexane (yield=0.94 g).

reactant | N-(2,3-dihydroxypropyl)-N-hexadecylamine | 0.0032 mole, 1.0 g | OC(CNCCCCCCCCCCCCCCCC)CO | C19H41NO2
reactant | potassium hydroxide | 0.18 mmole, 0.01 g | [OH-].[K+]
reactant | methyl 2-hydroxyhexadecanoate | 0.0032 mole, 0.907 g | OC(C(=O)OC)CCCCCCCCCCCCCC | C17H34O3
product | N-(2,3-dihydroxypropyl)-N-hexadecyl-2-hydroxyhexadecanamide | OC(CN(C(C(CCCCCCCCCCCCCC)O)=O)CCCCCCCCCCCCCCCC)CO | C35H71NO4
